US04373104
Following the procedure described in Example 16 but starting from 1.8 g. of 1-chloromethyl-isoquinoline and 1.54 g. of thiosalicylic acid, 1.1 g. of S-(1-isoquinolyl-methyl)-2-mercapto-benzoic acid are obtained, melting at 170° to 172° C.

reactant | 1-chloromethyl-isoquinoline | ClCC1=NC=CC2=CC=CC=C12 | C10H8ClN
reactant | thiosalicylic acid | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
product | S-(1-isoquinolyl-methyl)-2-mercapto-benzoic acid | C1(=NC=CC2=CC=CC=C12)CSC1=C(C(=O)O)C=CC=C1 | C17H13NO2S
